US05801263
100 ml of a 3.7% strength by weight sodium hydrogen carbonate solution (44.1 mmol NaHCO3) are added to 15.0 g (44.1 mmol) of (4-diphenylphosphinophenyl)methylphosphinic acid and the mixture stirred at room temperature until CO2 formation has ended. The aqueous solution is completely evaporated and dried under reduced pressure. 15.6 g (97% of theory) of sodium (4-diphenylphosphinophenyl)methylphosphinate are obtained. Solubility in water: 590 g/l

reactant | sodium hydrogen carbonate | 44.1 mmol | C(O)([O-])=O.[Na+]
reactant | (4-diphenylphosphinophenyl)methylphosphinic acid | 44.1 mmol, 15.0 g | C1(=CC=CC=C1)P(C1=CC=C(C=C1)CP(O)=O)C1=CC=CC=C1 | C19H18O2P2
reactant | CO2 | C(=O)=O | CO2
product | sodium (4-diphenylphosphinophenyl)methylphosphinate | 15.6 g, 97% | C1(=CC=CC=C1)P(C1=CC=C(C=C1)CP([O-])=O)C1=CC=CC=C1.[Na+] | InChI=1S/C19H18O2P2.Na/c20-22(21)15-16-11-13-19(14-12-16)23(17-7-3-1-4-8-17)18-9-5-2-6-10-18;/h1-14,22H,15H2,(H,20,21);/q;+1/p-1
